US08138215B2
Triflic anhydride (5.0 g, 18.0 mmol) was added dropwise to a cold (0° C.) solution of methyl 3-hydroxypicolinate (2.5 g, 16.3 mmol) and TEA (2.5 mL, 18.0 mmol) in CH2Cl2 (80 mL). The mixture was stirred at 0° C. for 1 h before it was allowed to warm up to room temperature where it stirred for an additional 1 h. The mixture was then quenched with saturated NaHCO3 solution (40 mL) and the organic layer was separated, washed with brine, dried over MgSO4 and concentrated to give methyl 3-(trifluoromethylsulfonyloxy)picolinate (i.e. Cap-174, step a) (3.38 g, 73%) as a dark brown oil (>95% pure) which was used directly without further purification. 1H NMR (300 MHz, CDCl3) δ ppm 8.72-8.79 (1 H, m), 7.71 (1 H, d, J=1.5 Hz), 7.58-7.65 (1 H, m), 4.04 (3 H, s). Rt=1.93 min (Cond.-MD1); LC/MS: Anal. Calcd. for [M+H]+ C8H7F3NO5S: 286.00; found: 286.08.

reactant | Triflic anhydride | 18.0 mmol, 5.0 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | methyl 3-hydroxypicolinate | 16.3 mmol, 2.5 g | OC=1C(=NC=CC1)C(=O)OC | C7H7NO3
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(trifluoromethylsulfonyloxy)picolinate | FC(S(=O)(=O)OC=1C(=NC=CC1)C(=O)OC)(F)F | C8H6F3NO5S
